US04233231
To a solution of E-1-tri-n-butystannyl-4-triethylsilyloxy-1-octene (11 g) in 200 ml ether is added 0.9 equivalents of iodine in one portion. After 25 minutes the color of the iodine has disappeared. An additional 0.1 equivalents of iodine is added in portions until the iodine color persists. The ether is removed in vacuo to provide (E)-1-iodo-4-triethylsilyloxy-1-octene. This residue is placed on a silica-gel column (240 g SilicAR CC-7) packed in hexane. A liter fraction of hexane contains 7.5 g of mostly tri-n-butyliodostannane. A 500 ml elution of benzene gives only a small amount of material. An elution with 600 ml of ether provides 7.0 g of 1-iodo-4-hydroxy-1-octene as an oil.

reactant | E-1-tri-n-butystannyl-4-triethylsilyloxy-1-octene | 11 g | C(CCC)[Sn](\C=C\CC(CCCC)O[Si](CC)(CC)CC)(CCCC)CCCC
reactant | iodine | 0.9 equivalents | II | I2
reactant | iodine | 0.1 equivalents | II | I2
solvent | ether | 200 ml | CCOCC | C4H10O
product | (E)-1-iodo-4-triethylsilyloxy-1-octene | I\C=C\CC(CCCC)O[Si](CC)(CC)CC | C14H29IOSi
